US08748605B2
Into a 50-ml eggplant-shaped flask provided with a magnetic stirrer and a reflux condenser were added 2.79 g (10 mmol) of tert-butyl 2-cyano-2-(4,6-dimethoxypyrimidin-2-yl)acetate, 10 ml of toluene and then 0.38 g (4 mmol) of methanesulfonic acid. The system inside was purged with nitrogen and stirred for 2 hours at 100° C. After the completion of a reaction, the system was cooled to room temperature; 30 ml water and 30 ml of ethyl acetate were added for phase separation; and re-extraction was conducted using 20 ml of ethyl acetate. Two ethyl acetate phases were combined, washed with saturated sodium chloride water, and dried over anhydrous sodium sulfate. Then, ethyl acetate was distilled off under reduced pressure to obtain 2-cyanomethyl-4,6-dimethoxypyrimidine as white crystal of 1.45 g. HPLC purity: 95.7% Yield: 81%

reactant | tert-butyl 2-cyano-2-(4,6-dimethoxypyrimidin-2-yl)acetate | 10 mmol, 2.79 g | C(#N)C(C(=O)OC(C)(C)C)C1=NC(=CC(=N1)OC)OC | C13H17N3O4
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | methanesulfonic acid | 4 mmol, 0.38 g | CS(=O)(=O)O | CH4O3S
reactant | water | 30 ml | O | H2O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 2-cyanomethyl-4,6-dimethoxypyrimidine | C(#N)CC1=NC(=CC(=N1)OC)OC | C8H9N3O2
